US08067448B2
4-Cyanobenzohydrazide
To a 250 mL round bottom flask charged with ethyl 4-cyanobenzoate (16.85 g, 96.2 mmol) in 95% ethanol (75 mL) was added hydrazine mono-hydrate (18.2 mL, 64% solution, 240 mmol). This mixture was heated to reflux for a period of 4.5 h, then allowed to cool to room temperature over a 16 h period. The solvent was removed under reduced pressure and the yellow residue was taken up in ice-cold water (150 mL). The light yellow solid was filtered off and washed with additional cold water (50 mL). The solid was then dried under high vacuum to yield the title compound as a light yellow solid (13.98 g, 90%). 1H NMR (400 MHz, DMSO-d6, δ in ppm) 10.05 (br s, 1H), 7.95 (AA′XX′, J=8.5 Hz, 4H), 4.61 (br s, 2H).

reactant | ethyl 4-cyanobenzoate | 96.2 mmol, 16.85 g | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
reactant | hydrazine mono-hydrate | 240 mmol, 18.2 mL | O.NN
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 4-Cyanobenzohydrazide | 13.98 g, 90% | C(#N)C1=CC=C(C(=O)NN)C=C1 | C8H7N3O
